* D:\dev\sawtooth\sawtooth.asc
V1 vcc 0 10v
R1 N002 0 20k
Q2 Vout N002 vcc 0 2N2907
C1 Vout 0 10µ
A1 N003 N006 0 0 0 N007 N005 0 SRFLOP
XU1 Vout N001 vcc 0 N003 LT1720
XU2 N008 Vout vcc 0 N006 LT1720
Q1 Vout N004 0 0 NPN
R3 N001 vcc 1k
R4 0 N001 9k
Q3 N004 N007 0 0 NPN
R2 vcc N004 100
R5 N008 vcc 9k
R6 0 N008 1k
.model NPN NPN
.model PNP PNP
.lib D:\Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 10m uic
* Constant current source
* Comparators checking higher and lower boundary\nof charging capacitor
* HIGH if CAP voltage above 9/10 Vcc
* HIGH if CAP voltage below 1/10 Vcc
* Rapid discharge
.lib LTC.lib
.backanno
.end
